US05849757
1-Tert-butoxycarbonyl-3-benzyloxycarbonyl-3-azabicyclo[3.2.0]heptane (fr. 1)
To a solution of 3-benzyloxycarbonyl-3-azabicyclo[3.2.0]heptane-1-carboxylic acid (2.90mmol) in tertiary butanol (15 ml) were added 0.53 ml (3.8 mmol) of triethylamine and 0.819 ml (3.8 mmol) of diphenylphosphorylazide, followed by 9 hours of stirring at 70° C. After cooling to room temperature, the reaction solution was poured into saturated sodium bicarbonate and extracted with ethyl acetate. The organic layer was washed with water and saturated brine and dried over anhydrous sodium sulfate. After evaporation of the solvent, the resulting residue was purified by a silica gel column chromatography (n-hexane:ethyl acetate=4:1) to give 817.8 mg (2.27 mmol, 78.3% for 2 steps from Reference Example B-2) of the title compound.

reactant | 3-benzyloxycarbonyl-3-azabicyclo[3.2.0]heptane-1-carboxylic acid | 2.90mmol | C(C1=CC=CC=C1)OC(=O)N1CC2(CCC2C1)C(=O)O | C15H17NO4
reactant | triethylamine | 3.8 mmol, 0.53 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphorylazide | 3.8 mmol, 0.819 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tertiary butanol | 15 ml | C(C)(C)(C)O | C4H10O
product | 1-Tert-butoxycarbonyl-3-benzyloxycarbonyl-3-azabicyclo[3.2.0]heptane | C(C)(C)(C)OC(=O)C12CN(CC2CC1)C(=O)OCC1=CC=CC=C1 | C19H25NO4
